US07435815B2
N-(2-Cyano-ethyl)-N-ethyl-2-[(6-methoxy-pyridin-3-yl)-(toluene-2-sulfonyl)-amino]-acetamide
prepared by reaction of [(6-methoxy-pyridin-3-yl)-(toluene-2-sulfonyl)-amino]-acetic acid with 3-ethylamino-propionitrile LC-MS: rt=0.91 min, 417 (M+1, ES+).

reactant | [(6-methoxy-pyridin-3-yl)-(toluene-2-sulfonyl)-amino]-acetic acid | COC1=CC=C(C=N1)N(S(=O)(=O)C=1C(=CC=CC1)C)CC(=O)O | C15H16N2O5S
reactant | 3-ethylamino-propionitrile | C(C)NCCC#N | C5H10N2
product | N-(2-Cyano-ethyl)-N-ethyl-2-[(6-methoxy-pyridin-3-yl)-(toluene-2-sulfonyl)-amino]-acetamide | C(#N)CCN(C(CN(S(=O)(=O)C=1C(=CC=CC1)C)C=1C=NC(=CC1)OC)=O)CC | C20H24N4O4S
